US07635711B2
Synthesis of N-(1-Benzo[b]thiophen-3-ylmethyl-2,2,2-trifluoroethyl)-2,4,6-trimethylbenzenesulfonamide
A mixture of 9 mg (2.20 mmol) of magnesium powder, 79 mg (0.37 mmol) of 3-bromobenzo[b]thiophene, 8 mg (0.04 mmol) of copper (I) iodide, and 50 mg (0.17 mmol) of 2-trifluoromethyl-1-(2,4,6-trimethylbenzenesulfonyl)aziridine in 1 mL of THF was warmed at 80° C. in a sealed tube. After 30 minutes, the reaction was quenched with 7 mL of saturated aqueous ammonium chloride solution and extracted with three 7 mL portions of ethyl acetate. The combined organic layers were washed with two 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was chromatographed on silica gel using dichloromethane-hexanes (1:1) to load the sample and then eluting with dichloromethane-hexanes (1:1, then 75:25). The material from the column was triturated with ether-hexanes to afford 17 mg (23%) of the title compound as a white solid which is consistent with the desired product. MS: m/z 428.51 (M+1).

reactant | magnesium | 2.20 mmol, 9 mg | [Mg] | Mg
reactant | 3-bromobenzo[b]thiophene | 0.37 mmol, 79 mg | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | 2-trifluoromethyl-1-(2,4,6-trimethylbenzenesulfonyl)aziridine | 0.17 mmol, 50 mg | FC(C1N(C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)(F)F | C12H14F3NO2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.04 mmol, 8 mg | [Cu]I
product | N-(1-Benzo[b]thiophen-3-ylmethyl-2,2,2-trifluoroethyl)-2,4,6-trimethylbenzenesulfonamide | 17 mg, 23% | S1C2=C(C(=C1)CC(C(F)(F)F)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)C=CC=C2 | C20H20F3NO2S2
